US07947834B2
1.1: 4-Nitrophenyl 3,4-dihydroquinoline-1(2H)-carboxylate
10 g of 1,2,3,4-tetrahydroquinoline, 10.46 ml of triethylamine, 270 ml of tetrahydrofuran and then 15.13 g of para-nitrophenyl chloroformate are introduced into a 1 l round-bottomed flask. The reaction medium is stirred at ambient temperature for two hours and then filtered. The solvent is evaporated under reduced pressure and the residue is taken up in dichloromethane and washed with a 2N aqueous hydrochloric acid solution and then twice with water. The organic phase is dried over magnesium sulfate and the solvent is evaporated under reduced pressure to result in 21.5 g of 4-nitrophenyl 3,4-dihydroquinoline-1(2H)-carboxylate.

reactant | 1,2,3,4-tetrahydroquinoline | 10 g | N1CCCC2=CC=CC=C12 | C9H11N
reactant | triethylamine | 10.46 ml | C(C)N(CC)CC | C6H15N
reactant | para-nitrophenyl chloroformate | 15.13 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | tetrahydrofuran | 270 ml | O1CCCC1 | C4H8O
product | 4-Nitrophenyl 3,4-dihydroquinoline-1(2H)-carboxylate | N1(CCCC2=CC=CC=C12)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H14N2O4
